US04057638
One part by weight of methoxycarbonyl isocyanate was added gradually with stirring to a solution of 2 parts by weight of 2-amino-5-chlorobenzothiazole in 100 parts by weight of methylene chloride and 50 parts by weight of ethyl ether. After stirring the reaction mixture at room temperature overnight, a product was isolated by filtration giving an 85% yield of methyl 4-(5-chlorobenzothiazol-2-yl)allophanate having a melting point of 395°.

reactant | methoxycarbonyl isocyanate | COC(=O)N=C=O | C3H3NO3
reactant | 2-amino-5-chlorobenzothiazole | NC=1SC2=C(N1)C=C(C=C2)Cl | C7H5ClN2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl 4-(5-chlorobenzothiazol-2-yl)allophanate | 85% yield | ClC=1C=CC2=C(N=C(S2)NC(NC(=O)OC)=O)C1 | C10H8ClN3O3S
